US05532235
4-(4-Nitrobenzoyl)-4,5,6,7-tetrahydro-8H-thieno[3,2-b]azepin-8-one
To a solution of 9.0 g of 4-(4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine in 713 ml of acetone is added 6.74 g of MgSO4 and 351 ml of water followed by 8.2 g of KMnO4 and heating at 70° C. for 18 hours. Another 6.24 g of MgSO4 and 8.2 g of KMnO4 is added and heating continued at 70° C. for 8 hours. An additional 6.24 g of MgSO4 and 8.2 g of KMnO4 is added and heating continued at 70° C. for 18 hours. The reaction mixture is filtered through diatomaceous earth and the cake washed with acetone and 500 ml of methylene chloride. The combined filtrates are evaporated in vacuo to a residue which is washed with water and air dried to give 5.7 g of a solid. The solid is crystallized from ethyl acetate to give 5.1 g of off white solid, m.p. 184°-186° C.

reactant | 4-(4-nitrobenzoyl)-5,6,7,8-tetrahydro-4H-thieno[3,2-b]azepine | 9.0 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(CCCC2)SC=C3)C=C1 | C15H14N2O3S
reactant | MgSO4 | 6.74 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | water | 351 ml | O | H2O
reactant | KMnO4 | 8.2 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | MgSO4 | 6.24 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KMnO4 | 8.2 g | [O-][Mn](=O)(=O)=O.[K+]
reactant | MgSO4 | 6.24 g | [O-]S(=O)(=O)[O-].[Mg+2]
reactant | KMnO4 | 8.2 g | [O-][Mn](=O)(=O)=O.[K+]
solvent | acetone | 713 ml | CC(=O)C | C3H6O
product | 4-(4-Nitrobenzoyl)-4,5,6,7-tetrahydro-8H-thieno[3,2-b]azepin-8-one | 5.7 g | [N+](=O)([O-])C1=CC=C(C(=O)N2C3=C(C(CCC2)=O)SC=C3)C=C1 | C15H12N2O4S
